### PR TITLE
Converting more files to FinSet

### PR DESCRIPTION
**Pull request by DafinaTrufas**

### CODE REVIEW

File: theories/VLSM/Core/Equivocation/FixedSetEquivocation.v [hunk 1]
```diff
@@ -949,13 +956,14 @@ Section fixed_equivocation_no_equivocators.
...
-  `{finite.Finite index}
+  `{FinSet index Ci}
+  `{@finite.Finite index _}
   (IM : index -> VLSM message)
   `{forall i : index, HasBeenSentCapability (IM i)}
   `{forall i : index, HasBeenReceivedCapability (IM i)}
   .
 
-Lemma strong_fixed_equivocation_no_equivocators
+(*Lemma strong_fixed_equivocation_no_equivocators
```
Comment (traiansf) [inline theories/VLSM/Core/Equivocation/FixedSetEquivocation.v:966]: This still needs work.

File: theories/VLSM/Core/Equivocators/Composition/LimitedEquivocation/LimitedStateEquivocation.v [hunk 2]
```diff
@@ -376,7 +374,7 @@ Proof.
        as Hsim.
     spec Hsim.
     { simpl. rewrite decide_True by apply zero_descriptor_not_equivocating.
-      by rewrite (equivocators_total_trace_project_characterization IM (proj1 Hpre_tr)).
+    by rewrite (equivocators_total_trace_project_characterization IM (proj1 Hpre_tr)).
```
Comment (traiansf) [inline theories/VLSM/Core/Equivocators/Composition/LimitedEquivocation/LimitedStateEquivocation.v:377]: indentation

File: theories/VLSM/Core/MessageDependencies.v [hunk 3]
```diff
@@ -20,11 +20,11 @@ From VLSM.Core Require Import SubProjectionTraces Equivocation EquivocationProje
   we denote by [msg_dep_happens_before].
 *)
 Definition msg_dep_rel
-  `(message_dependencies : message -> set message) : relation message :=
+  `{FinSet message Cm} `(message_dependencies : message -> Cm) : relation message :=
   fun m1 m2 => m1 ∈ message_dependencies m2.
 
 Definition msg_dep_happens_before
-  `(message_dependencies : message -> set message) : relation message :=
+`{FinSet message Cm} `(message_dependencies : message -> Cm) : relation message :=
```
Comment (traiansf) [inline theories/VLSM/Core/MessageDependencies.v:27]: indentation

File: theories/VLSM/Core/ByzantineTraces/FixedSetByzantineTraces.v [hunk 4]
```diff
@@ -68,10 +68,11 @@ Section fixed_byzantine_traces.
 
 Context
   {message : Type}
-  `{finite.Finite index}
+  `{FinSet index Ci}
+  `{@finite.Finite index _}
```
Comment (palmskog) [inline theories/VLSM/Core/ByzantineTraces/FixedSetByzantineTraces.v:72]: @DafinaTrufas is there a reason for not using the following pattern we were mostly able to use before?
```suggestion
  `{finite.Finite index}
  `{FinSet index Ci}
```

**Comment by traiansf** [comment]
Closing in favor of PR #136
